US06494923B2
Method for Preparing 4-(4-(bis-(2-hydroxyethyl)amino)benzylidene)-2-(2-hydroxyethyl)-5-methyl-2,4-dihydropyrazol-3-one (1)
2.85 g of 5-hydroxy-1-hydroxyethyl-3-methyl-1H-pyrazole and 4-(di-(2-hydroxyethyl)amino)-benzaldehyde in ethanol were allowed to reflux for 4 hours. The reaction mixture was then evaporated, and the residue was caused to crystallize by addition of a small amount of isopropanol.

reactant | 5-hydroxy-1-hydroxyethyl-3-methyl-1H-pyrazole | 2.85 g | OC1=CC(=NN1C(C)O)C | C6H10N2O2
reactant | 4-(di-(2-hydroxyethyl)amino)-benzaldehyde | OCCN(C1=CC=C(C=O)C=C1)CCO | C11H15NO3
reactant | ethanol | C(C)O | C2H6O
product | 4-(4-(bis-(2-hydroxyethyl)amino)benzylidene)-2-(2-hydroxyethyl)-5-methyl-2,4-dihydropyrazol-3-one | OCCN(C1=CC=C(C=C2C(N(N=C2C)CCO)=O)C=C1)CCO | C17H23N3O4
